US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (2-cyclobutyl-1-methylcarbamoyl-ethyl)-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.21 mmol) and 2-amino-3-cyclobutyl-N-methyl-propionamide (41.2 mg, 0.32 mmol) as starting materials and isolated (20 mg, 25.16%) as white solid; LC-MS (UV peak area, ESI) 99.32%, 373.2 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.21 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-amino-3-cyclobutyl-N-methyl-propionamide | 0.32 mmol, 41.2 mg | NC(C(=O)NC)CC1CCC1 | C8H16N2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (2-cyclobutyl-1-methylcarbamoyl-ethyl)-amide | C1(CCC1)CC(C(NC)=O)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C20H28N4O3
